US06451816B1
N-[4-(1-Diphenylmethylpiperidin-4-yl)-butyl]-3-(pyridin-3-yl)-propionamide (Substance 100)
21.6 g (131 mmol) 3-(3-pyridyl)-propionic acid methyl ester, 35.1 g ml (109 mmol) 4-(1-diphenylmethylpiperidine-4-yl)-butylamine and 9.8 g (54.5 mmol) 30% sodium methylate solution in methanol are heated to boiling in 480 ml toluene for five hours. Subsequently, 30 ml of solvent are distilled; thereby, sodium methylate precipitates and the temperature of the suspension increases to 102° C. under heavy foaming. The mixture is cooled to 70-80° C. and extracted twice with 45 ml and 30 ml of water. The organic phase is azeotropically dried on a moisture separator and cooled to ca. 0° C. The resulting precipitate is filtered off and crystallized from 190 ml toluol. Colorless crystals with a MP of 139° C. were recovered; yield: 46.3 g (93%).

reactant | 3-(3-pyridyl)-propionic acid methyl ester | 131 mmol, 21.6 g | COC(CCC=1C=NC=CC1)=O | C9H11NO2
reactant | 4-(1-diphenylmethylpiperidine-4-yl)-butylamine | ml, 35.1 g | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCN)C1=CC=CC=C1 | C22H30N2
reactant | sodium methylate | 54.5 mmol, 9.8 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | toluene | 480 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(1-Diphenylmethylpiperidin-4-yl)-butyl]-3-(pyridin-3-yl)-propionamide | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCNC(CCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C30H37N3O
